US04657913
1-Ethyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, ethyl ester
To 38.5 g (134 mmol) of 5,6,7,8-tetrafluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, ethyl ester in 700 ml of N,N-dimethylformamide was added 37.15 g (two equivalents) of potassium carbonate and 50 ml (five equivalents) of ethyl iodide. The mixture was brought to 50° C. and stirred vigorously overnight. The solvents were removed and the residue partioned between water and dichloromethane. The dichloromethane was dried (magnesium sulfate) and concentrated. The residue was triturated with diethyl ether to give 30.5 g of material which was recrystallized from ethanol. Filtration gave 23.5 g of the title compound, mp 217°-220° C.

reactant | 5,6,7,8-tetrafluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, ethyl ester | 134 mmol, 38.5 g | FC1=C2C(C(=CNC2=C(C(=C1F)F)F)C(=O)OCC)=O | C12H7F4NO3
reactant | potassium carbonate | 37.15 g, two equivalents | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 50 ml, five equivalents | C(C)I | C2H5I
solvent | N,N-dimethylformamide | 700 ml | CN(C=O)C | C3H7NO
product | 1-Ethyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, ethyl ester | 30.5 g | C(C)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)F)=O)C(=O)OCC | C14H11F4NO3
